Name:  ___               Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: ORTHOPAEDICS
 
Allergies: 
Penicillins
 
Attending: ___.
 
Chief Complaint:
T4 fracture
 
Major Surgical or Invasive Procedure:
T3-5 fusion with T4 vertebrectomy and cage placement
T1-8 posterior decompression and fusion with instrumentation

 
History of Present Illness:
___ referred from ___ for a pathological T4 
fracture with spinal tumor. He has reported a 2-week history of 
vague upper chest pains starting with shortness of 
breath/splinting. He was evaluated by PCP with diagnosis of 
costrochondritis and also underwent outpatient stress test on 
___. He continued to have discomfort and was ruled out an OSH 
ED. He then went back to the ED today for continued chest pain 
and back. CTA was performed to rule out PE, which revealed a 
pathologic fracture of T4 with a spinal tumor. Patient is 
otherwise healthy at baseline. He denies constitutional 
symptoms. His last colonoscopy was at age ___ (results unknown), 
and he has yearly PSA screening/DRE.  
.  
In the ED, initial VS: ___ 131/86 17 98% 2l  
Patient was in pain and given dilaudid 1 mg IV x 1. Neuro exam 
was non-focal. T4 vertebral body fracture noted on OSH CT scan 
with some posterior displacement. Ortho was consulted (Dr. 
___, and MRI of C,L,T spine was performed to evaluate for 
primary malignancy. Patient admitted to medicine for further 
malignancy work-up and pain control.  
VS on transfer were Temp 98.5 oral, HR 83, BP 139/99, RR 16, O2 
Sat 98% room air  
.  
On the floor, patient complaining of similar pain and was given 
dilaudid with good effect.  
.  
ROS: Denies fever, chills, night sweats, headache, vision 
changes, rhinorrhea, congestion, sore throat, cough, abdominal 
pain, nausea, vomiting, diarrhea, constipation, BRBPR, melena, 
hematochezia, dysuria, hematuria. + tingling in right hand.  
 
Past Medical History:
- hyperlipidemia  

 
Social History:
___
Family History:
Negative for neoplasm. Mom died in ___ ___ disease. 
Father died at ___ of heart disease. 
 
Physical Exam:
ADMISSION
VS: T 98.1 BP 148/110 BP 80 RR 16 pOx 98 RA  
GENERAL: well-appearing male in some pain, very still  
HEENT: NC/AT, PERRLA, EOMI, sclerae anicteric, MMM, OP clear.  
NECK: Supple, no LAD  
HEART: RRR, no MRG, nl S1-S2.  
LUNGS: CTA bilat, no r/rh/wh, good air movement, resp unlabored. 
 
ABDOMEN: Soft/NT/ND, no masses or HSM, no rebound/guarding.  
EXTREMITIES: WWP, no c/c/e, 2+ peripheral pulses.  
SKIN: No rashes or lesions.  
LYMPH: No cervical or axillary LAD.  
NEURO: Awake, A&Ox3, CNs II-XII intact, muscle grossly intact  

 
Pertinent Results:
___ 04:55AM BLOOD WBC-11.1* RBC-4.10* Hgb-12.4* Hct-35.3* 
MCV-86 MCH-30.2 MCHC-35.1* RDW-12.5 Plt ___
___ 02:50PM BLOOD WBC-9.6 RBC-4.56* Hgb-14.1 Hct-39.9* 
MCV-87 MCH-30.8 MCHC-35.3* RDW-12.0 Plt ___
___ 07:10AM BLOOD WBC-9.7 RBC-5.42 Hgb-16.1 Hct-47.4 MCV-87 
MCH-29.6 MCHC-33.9 RDW-12.4 Plt ___
___ 10:10PM BLOOD WBC-8.8 RBC-5.09 Hgb-15.5 Hct-44.8 MCV-88 
MCH-30.5 MCHC-34.6 RDW-12.5 Plt ___
___ 04:55AM BLOOD Glucose-90 UreaN-10 Creat-0.7 Na-135 
K-4.0 Cl-98 HCO3-27 AnGap-14
___ 07:10AM BLOOD Glucose-130* UreaN-12 Creat-0.8 Na-137 
K-4.1 Cl-98 HCO3-28 AnGap-15
___ 09:05PM BLOOD Glucose-121* UreaN-10 Creat-0.9 Na-134 
K-4.3 Cl-96 HCO3-24 AnGap-18
___ 04:55AM BLOOD Calcium-8.1* Phos-2.9 Mg-2.0
___ 07:10AM BLOOD Calcium-9.4 Phos-3.4 Mg-2.0
___ 10:10PM BLOOD TotProt-6.6 Albumin-4.5 Globuln-2.1 
Calcium-9.5 Phos-3.1 Mg-2.0
 
Brief Hospital Course:
HOSPITAL COURSE
This is a ___ Male transferred to ___ for evaluation and 
management of pathological T4 fracture likely neoplastic in 
origin, without evidence of other bony or soft tissue lesions on 
skeletal survey and CT torso, undergoing surgical repair and 
transferred to ortho/spine service
.
# Pathologic T4 Fracture: Pt admitted in setting of acute back 
and chest pain, found to have pathologic T4 fracture, thought to 
be neoplastic in etiology.  MRI spine demonstrated lesion at T4 
w slight indentation of cord.  Patient w/o neurologic deficits, 
so steroids were not started.  Patient was without signs of 
primary neoplastic processes on CT torso and skeletal survey.  
Multiple Myeloma also considered, but pt did not display any of 
the clinical signs usually associated with MM, including anemia, 
hypercalcemia, kidney failure.  Most likely diagnosis would be 
solitary Plasmacytoma of the bone (SPB) without extraosseous 
manifestations. Pt transferred to ortho-spine service for 
stabilization and biopsy.  At time of transfer, upep negative, 
spep pending.
Mr. ___ was transfered to the ___ Spine Surgery Service 
on and taken to the Operating Room for a T4 vertebrectomy and 
anterior T3-5 fusion on ___. Please refer to the dictated 
operative note for further details. The surgery was without 
complication and the patient was transferred to the PACU in a 
stable condition. TEDs/pnemoboots were used for postoperative 
DVT prophylaxis. Intravenous antibiotics were given per standard 
protocol. Initial postop pain was controlled with a PCA. On 
___ he returned to the operating room for a scheduled T1-8 
decompression with instrumentation as part of a staged 2-part 
procedure. Please refer to the dictated operative note for 
further details. The second surgery was also without 
complication and the patient was transferred to the PACU in a 
stable condition. Postoperative HCT was stable. A bupivicaine 
epidural pain catheter placed at the time of the posterior 
surgery remained in place until postop day one. He was kept NPO 
until bowel function returned then diet was advanced as 
tolerated. The patient was transitioned to oral pain medication 
when tolerating PO diet. Foley was removed on POD#2 from the 
second procedure. He was fitted with a TLSO brace for 
ambulation. Physical therapy was consulted for mobilization OOB 
to ambulate. 
The Heme/Onc service was consulted for further assessment of his 
plasmacytoma.  Follow up appointments were arranged.
Hospital course was otherwise unremarkable. On the day of 
discharge the patient was afebrile with stable vital signs, 
comfortable on oral pain control and tolerating a regular diet. 
 
Medications on Admission:
- lipitor 20 mg PO qD  
- ASA 81 mg PO qD  

 
Discharge Medications:
1. atorvastatin 20 mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
2. senna 8.6 mg Tablet Sig: One (1) Tablet PO BID (2 times a 
day).  
3. docusate sodium 100 mg Capsule Sig: Two (2) Capsule PO BID (2 
times a day).
Disp:*120 Capsule(s)* Refills:*2*
4. lorazepam 1 mg Tablet Sig: One (1) Tablet PO Q6H (every 6 
hours) as needed for anxiety.
Disp:*60 Tablet(s)* Refills:*0*
5. hydromorphone 2 mg Tablet Sig: ___ Tablets PO Q3H (every 3 
hours) as needed for pain.
Disp:*120 Tablet(s)* Refills:*0*
6. morphine 30 mg Tablet Extended Release Sig: Two (2) Tablet 
Extended Release PO Q8H (every 8 hours).
Disp:*180 Tablet Extended Release(s)* Refills:*0*
7. bisacodyl 5 mg Tablet, Delayed Release (E.C.) Sig: Two (2) 
Tablet, Delayed Release (E.C.) PO DAILY (Daily) as needed for 
constipation.
Disp:*60 Tablet, Delayed Release (E.C.)(s)* Refills:*0*

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Plasmacytoma
Acute post-op blood loss anemia
T4 fracture
 
Discharge Condition:
Good

 
Discharge Instructions:
You have undergone the following operation: ANTERIOR/POSTERIOR 
Thoracic Decompression With Fusion
 

 
Immediately after the operation:
 

 
-Activity: You should not lift anything greater than 10 lbs for 
2 weeks. You will be more comfortable if you do not sit or stand 
more than ~45 minutes without getting up and walking around.
 

 
-Rehabilitation/ Physical Therapy: 
 
o2-3 times a day you should go for a walk for ___ minutes as 
part of your recovery. You can walk as much as you can tolerate. 

 
oLimit any kind of lifting.
 

 
-Diet: Eat a normal healthy diet. You may have some constipation 
after surgery. You have been given medication to help with this 
issue.
 

 
-Brace: You have been given a brace. This brace is to be worn 
for comfort when you are walking. You may take it off when 
sitting in a chair or while lying in bed.
 

 
-Wound Care: Remove the dressing in 2 days. If the incision is 
draining cover it with a new sterile dressing. If it is dry then 
you can leave the incision open to the air. Once the incision is 
completely dry (usually ___ days after the operation) you may 
take a shower. Do not soak the incision in a bath or pool. If 
the incision starts draining at anytime after surgery, do not 
get the incision wet. Cover it with a sterile dressing. Call the 
office. 
 

 
-You should resume taking your normal home medications. No 
NSAIDs.
 

 
-You have also been given Additional Medications to control your 
pain. Please allow 72 hours for refill of narcotic 
prescriptions, so please plan ahead. You can either have them 
mailed to your home or pick them up at the clinic located on 
___ 2. We are not allowed to call in or fax narcotic 
prescriptions (oxycontin, oxycodone, percocet) to your pharmacy. 
In addition, we are only allowed to write for pain medications 
for 90 days from the date of surgery.
 

 
Please call the office if you have a fever>101.5 degrees 
Fahrenheit and/or drainage from your wound.
 

Physical Therapy:
Activity:   Activity:  Out of bed w/ assist
 Thoracic lumbar spine:   when OOB

Treatments Frequency:
Please continue to inspect the incision daily
 
Followup Instructions:
___